US04216150
Ethyl 1-methylpyrrole-2-acetate: A stream of dry hydrogen chloride is passed at a moderate rate through a solution of 12.5 g of N-methylpyrrole and 16.8 g of ethyl cyanoformate in 125 mls of ethanol-free chloroform at 22° C. for 31/2 hours. The reaction mixture is added dropwise with stirring to a 1.5 liter solution of 5% sodium bicarbonate. The chloroform layer is separated, dried over Na2SO4 and evaporated in vacuo at room temperature to give a brown oil (ethyl α-imino-1-methylpyrrole-2-acetate). The oil is dissolved in 125 ml of ethanol. Hydrogen sulfide is passed through the solution vigorously for 45 mins at 22° C. The mixture is allowed to stand for 16 hrs. The solvent is evaporated in vacuo. The residue is taken up in chloroform. Sulfur is removed by filtration. The chloroform is evaporated in vacuo. The residue is distilled in vacuo to give 15.5 g (60% yield) of oily ethyl 1-methylpyrrole-2-acetate, b.p. 64°-66° C. at 0.06 Torr.

reactant | Ethyl 1-methylpyrrole-2-acetate | CN1C(=CC=C1)CC(=O)OCC | C9H13NO2
reactant | hydrogen chloride | Cl | ClH
reactant | N-methylpyrrole | 12.5 g | CN1C=CC=C1 | C5H7N
reactant | ethyl cyanoformate | 16.8 g | C(#N)C(=O)OCC | C4H5NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 125 mls | C(C)O | C2H6O
product | ethyl α-imino-1-methylpyrrole-2-acetate | N=C(C(=O)OCC)C=1N(C=CC1)C | C9H12N2O2
